US07750003B2
tert-Butyl N-[4-[4-[(3S)-3-methylmorpholin-4-yl]-6-(methylsulfonylmethyl)pyrimidin-2-yl]phenyl]carbamate
2-Chloro-4-[(3S)-3-methylmorpholin-4-yl]-6-(methylsulfonylmethyl)pyrimidine (1.0 g, 3.27 mmol) was dissolved in a solution of 18% DMF in a mixture of 7:3:2 DME:water:ethanol (7 mL). [4-[(2-Methylpropan-2-yl)oxycarbonylamino]phenyl]boronic acid (1.165 g, 4.91 mmol), 2M sodium carbonate solution (4 mL) and dichlorobis(triphenylphosphine) palladium catalyst (115 mg, 0.16 mmol) were then added to the solution and refluxed at 90° C. for 5 hours under nitrogen atmosphere. The reaction was allowed to cool to room temp then partitioned between ethyl acetate and water. The organics were dried over magnesium sulphate, filtered and concentrated to dryness. The crude oil was dissolved in dichloromethane and filtered to remove insoluble material. A beige solid precipitated from the filtrates and the filtrates were filtered again. The solid was analysed and found to be the excess boronic acid and the filtrates contained the product and some impurities. The filtrates were purified by chromatography on silica, eluting with 0-40% ethyl acetate in isohexane, to give the desired compound as an orange oil (530 mg).

reactant | 2-Chloro-4-[(3S)-3-methylmorpholin-4-yl]-6-(methylsulfonylmethyl)pyrimidine | 3.27 mmol, 1.0 g | ClC1=NC(=CC(=N1)N1[C@H](COCC1)C)CS(=O)(=O)C | C11H16ClN3O3S
reactant | water | O | H2O
reactant | [4-[(2-Methylpropan-2-yl)oxycarbonylamino]phenyl]boronic acid | 4.91 mmol, 1.165 g | CC(C)(C)OC(=O)NC1=CC=C(C=C1)B(O)O | C11H16BNO4
reactant | sodium carbonate | 2M, 4 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DME | COCCOC | C4H10O2
solvent | ethanol | 7 mL | C(C)O | C2H6O
product | tert-Butyl N-[4-[4-[(3S)-3-methylmorpholin-4-yl]-6-(methylsulfonylmethyl)pyrimidin-2-yl]phenyl]carbamate | 530 mg | C[C@@H]1N(CCOC1)C1=NC(=NC(=C1)CS(=O)(=O)C)C1=CC=C(C=C1)NC(OC(C)(C)C)=O | C22H30N4O5S
